US04565425
A mixture of 10.55 g of 1,1-ethylenedioxy-4-(methoxymethylene)cyclohexane, 130 ml of water and 200 ml of glacial acetic acid was heated to reflux for 1 hour. The solvent was subsequently distilled off on a rotary evaporator and the distillate was extracted twice with methylene chloride. The distillation residue (a yellow oil) was diluted with 200 ml of water, neutralized with sodium carbonate solution and extracted three times with methylene chloride. The organic phases were washed with saturated sodium carbonate solution and the aqueous phases were back-extracted with methylene chloride. The organic phases were dried over magnesium sulphate and evaporated. Distillation of the residual, yellow oil gave 6.7 g (93%) of 4-formylcyclohexanone at 70° C./0.15 Torr.

reactant | 1,1-ethylenedioxy-4-(methoxymethylene)cyclohexane | 10.55 g | C1OC2(CCC(CC2)=COC)OC1 | C10H16O3
reactant | water | 130 ml | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 4-formylcyclohexanone | 6.7 g, 93% | C(=O)C1CCC(CC1)=O | C7H10O2
